US05051419
A mixture of 1 g of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 1.15 g of 2-acetylaminomethylmorpholine, 1 g of triethylamine and10 ml of pyridine was heated under reflux for 16 hours. The reaction mixture was concentrated to dryness under reduced pressure, and ethyl acetate was added to the residue. The resulting crystals were collected byfiltration, and suspended in 20 ml of water. The suspension was extracted with chloroform, and the extract was dried and concentrated. Recrystallization of the residue from ethanol gave 720 mg of 5-amino-7-(2-acetylaminomethylmorpholino)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. m.p. 228°-229° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 2-acetylaminomethylmorpholine | 1.15 g | C(C)(=O)NCC1CNCCO1 | C7H14N2O2
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-amino-7-(2-acetylaminomethylmorpholino)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 720 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(OCC1)CNC(C)=O)F)C1CC1)C(=O)O)=O | C20H22F2N4O5
